US06960582B2
Step 1. Preparation of 2-[2-(2,4-dichlorophenyl)ethyl]-5-nitro-1H-isoindole-1,3(2H)-dione
2-(2,4-dichlorophenyl)ethanamine was suspended in toluene with 4-nitrophthalic anhydride (1 eq) and heated to 150° C. After 2 hours, the reaction was cooled and checked for completion by LC/MS. The solvent was then removed in vacuo and the resulting product was taken on to the next step without further purification. Rt 3.36 minutes (HP LCMS), LC/MS m/z 365.1 (MH+).

reactant | 2-(2,4-dichlorophenyl)ethanamine | ClC1=C(C=CC(=C1)Cl)CCN | C8H9Cl2N
reactant | 4-nitrophthalic anhydride | 1 eq | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(2,4-dichlorophenyl)ethyl]-5-nitro-1H-isoindole-1,3(2H)-dione | ClC1=C(C=CC(=C1)Cl)CCN1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O | C16H10Cl2N2O4
